US04598091
4-Methoxystilbene (M.P. 130°-131° C.)
19.6 grams (0.1 mole) of 4-hydroxystilbene, 135 grams of K2CO3 and 135 grams of methyl iodide were stirred in 500 ml of dimethyl-formamide for 20 hours at room temperature. After dilution with water the mixture was shaken with methylene chloride.

reactant | 4-hydroxystilbene | 0.1 mole, 19.6 grams | OC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H12O
reactant | K2CO3 | 135 grams | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 135 grams | CI | CH3I
reactant | water | O | H2O
solvent | dimethyl-formamide | 500 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Methoxystilbene | COC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H14O
